US08445501B2
1-Bromo-4-methoxy-2-(2-methoxy-ethoxy)-benzene
Starting from commercially available 2-bromo-5-methoxy-phenol and 1-bromo-2-methoxy-ethane the title compound is obtained as colorless solid.

reactant | 2-bromo-5-methoxy-phenol | BrC1=C(C=C(C=C1)OC)O | C7H7BrO2
reactant | 1-bromo-2-methoxy-ethane | BrCCOC | C3H7BrO
product | 1-Bromo-4-methoxy-2-(2-methoxy-ethoxy)-benzene | BrC1=C(C=C(C=C1)OC)OCCOC | C10H13BrO3
